US04663457
1-Cyclopropyl-6-fluoro-1,4-dihydro-7-(4-methyl-1-piperazinyl)-4-oxo-1,8-naphthyridine-3-carboxylic acid
A suspension of 1.3 g (4.0 mmole) of 1-cyclopropyl-6-fluoro-1,4-dihydro-4-oxo-7-(1-piperazinyl)-1,8-naphthyridine-3-carboxylic acid, 13.3 ml of 37% formalin and 13.3 ml of 88% formic acid was refluxed for four hours. The resulting solution was evaporated in vacuo. The residue was suspended in aqueous ethanol, the resulting precipitate removed by filtration, washed with water and dried in vacuo to give 1.24 g of the title compound, mp 236°-237° C.

reactant | 1-cyclopropyl-6-fluoro-1,4-dihydro-4-oxo-7-(1-piperazinyl)-1,8-naphthyridine-3-carboxylic acid | 4.0 mmole, 1.3 g | C1(CC1)N1C=C(C(C2=CC(=C(N=C12)N1CCNCC1)F)=O)C(=O)O | C16H17FN4O3
reactant | formalin | 13.3 ml | C=O | CH2O
solvent | formic acid | 13.3 ml | C(=O)O | CH2O2
product | 1-Cyclopropyl-6-fluoro-1,4-dihydro-7-(4-methyl-1-piperazinyl)-4-oxo-1,8-naphthyridine-3-carboxylic acid | 1.24 g | C1(CC1)N1C=C(C(C2=CC(=C(N=C12)N1CCN(CC1)C)F)=O)C(=O)O | C17H19FN4O3
